US07741352B2
1-(2-Hydroxy-4-octyloxy-phenyl)-ethanone (Compound 12-1)
A slurry of 2,4-dihydroxy actophenone (3.8 g; 25 mmol) and KHCO3 (2.75 g; 27.5 mmol) in DMF (50 mL) was stirred at 50° C. for 1 hour and then added 1-bromooctane (4.75 mL; 27.5 mmol). The reaction mixture was stirred at 50-60° C. for 7 days, poured onto H2O (100 mL) and the aqueous phase extracted with diethyl ether (3×). The combined organic fractions was dried (MgSO4), filtered, evaporated to dryness and purified by column chromatography (SiO2; EtOAc/PE80-100° C.=1:10) to yield 4.39 g (66%) as yellow oil. MS (direct; Cl): 265 (MH+).

reactant | 2,4-dihydroxy actophenone | 25 mmol, 3.8 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | 1-bromooctane | 27.5 mmol, 4.75 mL | BrCCCCCCCC | C8H17Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(2-Hydroxy-4-octyloxy-phenyl)-ethanone | OC1=C(C=CC(=C1)OCCCCCCCC)C(C)=O | C16H24O3
